US07504403B2
1-(6-Phenethylamino-pyrazin-2-yl)-7-phenyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one.
To a mixture of 1-(6-chloro-pyrazin-2-yl)-7-phenyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one (85 mg, 0.26 mmol), sodium tert-butoxide (70 mg, 2.8 eq), BINAP (24 mg, 15% eq), and Pd (OAc)2 (9 mg, 15% eq) was added toluene (5 mL) and phenethylamine (39 μL, 1.2 eq). After purged with N2 for 10 min, the overall mixture was heated at 70° C. for 3 h prior to being cooled to room temperature. The resulting material was filtered through Celite and the filtrated cake was washed with DCM/MeOH (98:2) and the filtrates were concentrated. The residual material was purified by a preparative thin-layer chromatography (2% MeOH in DCM) to provide the title compound as a pale yellow solid. MS m/e 410 (M+H)+. Biological Assays

reactant | 1-(6-chloro-pyrazin-2-yl)-7-phenyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | 0.26 mmol, 85 mg | ClC1=CN=CC(=N1)N1CCN2C1=CC(=CC2=O)C2=CC=CC=C2 | C17H13ClN4O
reactant | sodium tert-butoxide | 70 mg, 2.8 eq | CC(C)([O-])C.[Na+]
reactant | BINAP | 24 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | phenethylamine | 39 μL, 1.2 eq | C(CC1=CC=CC=C1)N | C8H11N
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(6-Phenethylamino-pyrazin-2-yl)-7-phenyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | C(CC1=CC=CC=C1)NC1=CN=CC(=N1)N1CCN2C1=CC(=CC2=O)C2=CC=CC=C2 | C25H23N5O
